US08242104B2
Step 1: 2-Methyl-1-trityl-1H-imidazole
Triphenylmethyl chloride (16.0 g, 57.5 mmol) was added portionwise to a solution of 2-methylimidazole (4.10 g, 50.0 mmol) and Triethylamine (9.02 mL, 64.7 mmol) in 20 ml of N,N-dimethylformamide. The mixture was stirred for 18 hours, mixed with 300 ml of water and extracted with 1000 ml of ethyl acetate. The organic extract was washed with 1 L of water, brine, dried over MgSO4 and concentrate in vacuum to 50 ml volume. A precipitate was collected, washed with ethyl acetate and dried in high vacuum for 18 hours. Weight 15.0 g (92.5%). 1H NMR (400 MHz, CDCl3) δ 7.34-7.29 (m, 9H), 7.16-7.11 (m, 6H), 6.90 (d, J=1.5, 1H), 6.71 (d, J=1.5, 1H), 1.65 (s, 3H).

reactant | Triphenylmethyl chloride | 57.5 mmol, 16.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 2-methylimidazole | 50.0 mmol, 4.10 g | CC=1NC=CN1 | C4H6N2
reactant | Triethylamine | 64.7 mmol, 9.02 mL | C(C)N(CC)CC | C6H15N
reactant | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-1-trityl-1H-imidazole | CC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2
